US05004739
3-Bromo-9-(hydroxymethyl)-phenanthrene (4)
A solution of 3-bromo-phenanthrene-9-carboxylic acid (6.27 g, 20.8 mmol) in 100 ml of THF was cooled to 0° C. and a solution of borane in THF (1.0M, 25 ml, 25 mmol) was added dropwise. The cooling bath was removed, and the solution was stirred at room temperature for 19 hours and was then quenched by the cautious addition of methanol (25 ml). The solution was evaporated to dryness in vacuo and the residue was dissolved in methanol - CH2Cl2 (1:1) and again evaporated. After one repetition of this dissolution-evaporation process, 5.96 g (100%) of the title compound was obtained as a brown solid which was used in the next reaction without purification.

reactant | 3-bromo-phenanthrene-9-carboxylic acid | 20.8 mmol, 6.27 g | BrC=1C=CC=2C=C(C3=CC=CC=C3C2C1)C(=O)O | C15H9BrO2
reactant | borane | B | BH3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 25 mmol, 1.0M, 25 ml | C1CCOC1 | C4H8O
product | 3-Bromo-9-(hydroxymethyl)-phenanthrene | 5.96 g, 100% | BrC=1C=CC=2C=C(C3=CC=CC=C3C2C1)CO | C15H11BrO
